US06605635B1
Triethylamine (0.77 ml) and 4-chlorobenzenesulfonyl chloride (1.2 g) were added to a solution of 4-hydroxybenzylamine (0.68 g) in ethanol(10 ml), respectively. The reaction mixture was stirred at room temperature for 4 hours and evaporated in vacuo to remove the solvent. The residual solid was washed with water then recrystallized from ethanol to give N-(4-hydroxybenzyl)-4-chlorobenzenesulfonamide (1.2 g), mp 187-189° C.

reactant | Triethylamine | 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 1.2 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 4-hydroxybenzylamine | 0.68 g | OC1=CC=C(CN)C=C1 | C7H9NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(4-hydroxybenzyl)-4-chlorobenzenesulfonamide | 1.2 g | OC1=CC=C(CNS(=O)(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H12ClNO3S
